US07432284B2
A mixture of 1,6-dibromo-3a-butyl-7-(methoxymethoxy)-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one (71 mg, 0.15 mmol), dichlorobis(triphenylphosphine)palladium(II) (16 mg, 0.022 mmol), tetramethyltin (0.053 mL, 0.36 mmol), lithium chloride (13 mg, 0.30 mmol), and triphenylphosphine (8 mg, 0.03 mmol) in anhydrous N,N-dimethylformamide (DMF, 0.75 mL) was placed under a N2 atmosphere and heated in an oil bath at 100° C. for 2 days. After cooling, the mixture was concentrated under vacuum, the residue was taken up in CHCl3 and filtered through a pad of silica gel, and the filtrate was evaporated under vacuum to provide an oil. This material was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 2:1 hexane-EtOAc. The UV visible band at Rf 0.44-0.50 was eluted with EtOAc and the eluant evaporated under vacuum to provide 6-bromo-3a-butyl-7-(methoxymethoxy)-1-methyl-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one contaminated with approximately 10% of 3a-butyl-7-(methoxymethoxy)-1,6-dimethyl-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one.

reactant | 1,6-dibromo-3a-butyl-7-(methoxymethoxy)-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | 0.15 mmol, 71 mg | BrC=1C(CC2(C1C1=CC=C(C(=C1CC2)Br)OCOC)CCCC)=O | C19H22Br2O3
reactant | tetramethyltin | 0.36 mmol, 0.053 mL | C[Sn](C)(C)C
reactant | lithium chloride | 0.30 mmol, 13 mg | [Cl-].[Li+]
reactant | triphenylphosphine | 0.03 mmol, 8 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 0.75 mL | CN(C=O)C | C3H7NO
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.022 mmol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-bromo-3a-butyl-7-(methoxymethoxy)-1-methyl-3,3a,4,5-tetrahydro-2H-cyclopenta[a]naphthalen-2-one | BrC1=C2CCC3(C(C2=CC=C1OCOC)=C(C(C3)=O)C)CCCC | C20H25BrO3
